US08426447B2
A 15-mL RBF was charged with the product from (S)-1-(2-amino-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)propan-2-one (104 mg, 258 μmol) in THF (2584 μl, 258 μmol). The flask was cooled in an ice-bath for 5 min, and methylmagnesium chloride, (258 μl of a 3.0 M solution in ether, 775 μmol) was added dropwise to it over 20 sec, resulting in a yellowish-white suspension. After 2 h, an additional portion of Grignard reagent (150 uL) was added and the ice-bath was removed. After 2 h, the mixture was quenched with saturated ammonium chloride solution and diluted with EtOAc and water. The layers were separated, and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 40-g Redi-Sep column with 5% MeOH/DCM, then with 8% MeOH/DCM to afford 1-(((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)oxy)-2-methyl-2-propanol as a white solid. MS m/z=419.2 [M+H]+. Calc'd for C23H23N4O4: 419.2.

reactant | (S)-1-(2-amino-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)propan-2-one | 258 μmol, 104 mg | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=NC2)OCC(C)=O)N1 | C22H18N4O4
reactant | THF | 258 μmol, 2584 μl | C1CCOC1 | C4H8O
reactant | methylmagnesium chloride | C[Mg]Cl
solvent | ether | CCOCC | C4H10O
product | 1-(((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)oxy)-2-methyl-2-propanol | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)OCC(C)(O)C)C=2C=NC=NC2)N1 | C23H22N4O4
